US09334366B2
4.0 g (10.7 mmol) 2,2-bis(4-nitrobenzyl)malonic acid are dissolved in 40 ml THF and added dropwise at the course of 2 hours to 64.1 ml (64.1 mmol) of a borane-tetrahydrofuran complex 1.0 M solution in THF, which is used without further purification. After 19 hours at 25° C., 50 ml of water are carefully added. The reaction mixture is then partitioned between ethyl acetate and water. The organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation to give 3.8 g of 2,2-bis(4-nitrobenzyl)-1,3-propandiol as a white powder.

reactant | 2,2-bis(4-nitrobenzyl)malonic acid | 10.7 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)(C(=O)O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H14N2O8
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2,2-bis(4-nitrobenzyl)-1,3-propandiol | 3.8 g | [N+](=O)([O-])C1=CC=C(CC(CO)(CO)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H18N2O6
